US06265411B1
Using a procedure analogous to that described for the starting material in Example 57, ethyl(4-bromo-2-nitrophenyl)acetate (26 g, 90 mmol) was treated with iron in acetic acid. The product thus obtained was recystallised from ether/isohexanes to give 6-bromooxindole (8.2 g, 42%).

reactant | ethyl(4-bromo-2-nitrophenyl)acetate | 90 mmol, 26 g | C(C)OC(CC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C10H10BrNO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 6-bromooxindole | 8.2 g, 42% | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
